US09353107B2
Step-ii: N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(piperazin-1-yl)phenyl)methanesulfonamide hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-(methylsulfonamido)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (27 mg, mmol) was deprotected in methanol/HCl in diethyl ether (3/1 ml) to afford 12 mg (57% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 9.01-9.00 (d, 1H), 8.71-8.70 (d, 1H), 8.41 (s, 1H), 8.09 (s, 1H), 7.98 (s, 1H), 7.87-7.86 (d, 1H), 7.66-7.63 (dd, 1H), 7.49-7.46 (d, 1H), 7.40-7.34 (m, 1H), 7.16-7.13 (m, 1H), 7.07-7.02 (m, 2H), 5.47 (s, 2H), 3.50-3.46 (m, 4H), 3.26-3.23 (m, 7H). MS: m/z=546.2 (M+1), HPLC: 98.49% in method B.

reactant | tert-butyl 5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-(methylsulfonamido)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 27 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)C(=O)OC(C)(C)C)NS(=O)(=O)C | C38H44FN7O6S
reactant | methanol HCl | CO.Cl
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(piperazin-1-yl)phenyl)methanesulfonamide hydrochloride | 12 mg, 57% yield | Cl.FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)N3CCNCC3)C=CC1 | InChI=1S/C28H28FN7O2S.ClH/c1-39(37,38)34-26-13-20(5-6-27(26)35-9-7-30-8-10-35)21-12-24-25(16-32-28(24)31-14-21)22-15-33-36(18-22)17-19-3-2-4-23(29)11-19;/h2-6,11-16,18,30,34H,7-10,17H2,1H3,(H,31,32);1H
